US04278685
(2,5-Dichloro-1H-pyrrol-1-yl)acetamide
A mixture of methyl(2,5-dichloro-1H-pyrrol-1-yl)acetate (0.5 g), in ether (3 cm3), and concentrated aqueous ammonia solution (3 cm3) was stirred at room temperature overnight in a stoppered flask. The precipitated crystalline product was collected by filtration and washed with ether to give 0.07 g of title compound. The ethereal washings were dried and evaporated. The crystalline residue was triturated with diisopropyl ether to give a further 0.13 g of title compound, m.p. 183°-4° C.

reactant | methyl(2,5-dichloro-1H-pyrrol-1-yl)acetate | 0.5 g | COC(CN1C(=CC=C1Cl)Cl)=O | C7H7Cl2NO2
reactant | ammonia | 3 cm3 | N | H3N
solvent | ether | 3 cm3 | CCOCC | C4H10O
product | (2,5-Dichloro-1H-pyrrol-1-yl)acetamide | 0.07 g | ClC=1N(C(=CC1)Cl)CC(=O)N | C6H6Cl2N2O
